US04298529
A mixture of ethyl 2-methoxyimino-3-oxo-4-chlorobutyrate (syn isomer, 41 g), ethylene glycol (24.6 g), p-toluenesulfonic acid (2.0 g) and toluene (250 ml) was heated for 20 hours under reflux while removing water. The reaction mixture was cooled to ambient temperature, washed with a saturated aqueous solution of sodium bicarbonate, a saturated aqueous solution of sodium chloride in turn, dried over magnesium sulfate and then the solvents were removed. The residue was distilled under reduced pressure to give ethyl 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyrate (syn isomer, 24.4 g), bp 103°-110° C./2 mmHg.

reactant | ethyl 2-methoxyimino-3-oxo-4-chlorobutyrate | 41 g | CON=C(C(=O)OCC)C(CCl)=O | C7H10ClNO4
reactant | ethylene glycol | 24.6 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyrate | 24.4 g | CON=C(C(=O)OCC)C1(CCl)OCCO1 | C9H14ClNO5
